Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
palpitations
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ with hx of palpitations with prior negative workup 
presented to ___ with one day of palpitations and 
associated chest tightness. 

She initially presented to the ___ and was found to have 
a fast heart beat; the rhythm alternated between sinus 
tachycardia and a rapid narrow complex tachycardia with rates up 
to 200. She was started on an esmolol gtt without much 
improvement, then transitioned to dilt gtt with some 
improvement. Her labs were notable for an elevated troponin and 
CKMB, negative d-dimer, negative tox screen. Cardiology was 
consulted and recommended treating her for ACS and loading her 
with amiodarone. She was admitted to the ICU for further care.

In the CCU at ___, she was given adenosine with no 
improvement in her heart rate. She received digoxin as well. She 
was then continued on a dilt gtt and given amio bolus and gtt. 
TEE was performed this morning, with EF of 45%. Direct 
cardioversion was attempted 4 times at 200J without conversion 
to sinus rhythm. Of note, she recently started taking a dietary 
supplement for weight loss. 

Due to the patient's elevated troponin and CKMB, there was also 
concern for type I NSTEMI. She was thereapeutically 
anticoagulated with lovenox, given 325mg of ASA, 300mg plavix 
and 80mg atorvastatin. The patient's CK on admission was 4200 
and CKMB at 265, now downtrending. The patient also complained 
of muscle pains for months and "difficulty lifting her arms." 
She was transferred to ___ for further care.

Upon arrival in the CCU, patient's vitals were as follows: BP 
95/48 HR 147 RR 16 97% on 2L. She appeared calm with good 
mentation and denied any current dizziness/lightheadedness, SOB, 
or crushing chest pain. She does report palpitations. She 
confirms that she has taken four days of HCG dietary 
supplementation but states that the palpitations began before 
this. She denies any other illicit drugs but states that she has 
been drinking more alcohol due to a very stressful divorce. She 
is now consuming ___ drinks ~4 days per week. 

In addition to the above, review of systems notable for 
worsening fatigue, exercise intolerance, shoulder/hip pain, 
tingling in hands/forearms, and cold intolerance. 

 
Past Medical History:
History of palpitations, with previous negative workup by Holter 
monitor.
 
Social History:
___
Family History:
Mother with atrial fibrillation and sister with "hole in her 
heart"
Denies family history of sudden death.
 
Physical Exam:
ADMISSION:
VS: BP 95/48 HR 147 RR 16 97% on 2L
Gen: Pleasant, calm lady lying flat in bed in NAD. 
HEENT: No conjunctival pallor. No icterus. MMM. OP clear.  
NECK: Supple, No LAD. JVP low.  
CV:  Tachycardic. normal S1,S2. No murmurs, rubs, clicks, or 
gallops.
LUNGS: CTA b/l No wheezes, rales, or rhonchi.  
ABD: NABS. Soft, NT, ND. No HSM.No abdominal bruits.  
EXT: WWP, NO erythema/edema. Full distal pulses bilaterally.
SKIN: tan, No rashes/lesions, ecchymoses.  
NEURO: A&Ox3. CN ___ grossly intact. Preserved sensation 
throughout. ___ strength throughout.Inability to raise arms 
above 90 degree angle due to pain. 

DISCHARGE:
VS: T: 98.0 BP 90-110's/50-60's HR 74 RR 20 98%RA
Gen: Pleasant, calm  
HEENT: No conjunctival pallor. No icterus. MMM. OP clear.  
NECK: Supple, No LAD. JVP low.  
CV:  RRR normal S1,S2. No murmurs, rubs, clicks, or gallops.
LUNGS: CTA b/l No wheezes, rales, or rhonchi.  
ABD: NABS. Soft, NT, ND. No HSM.No abdominal bruits.  
EXT: WWP, NO erythema/edema. Full distal pulses bilaterally.
SKIN: tan, No rashes/lesions, ecchymoses.  
NEURO: A&Ox3. CN ___ grossly intact. Preserved sensation 
throughout. ___ strength throughout.
 
Pertinent Results:
DISCHARGE:
___ 05:30AM BLOOD WBC-9.1 RBC-4.23 Hgb-13.3 Hct-41.0 MCV-97 
MCH-31.4 MCHC-32.4 RDW-12.8 RDWSD-45.2 Plt ___
___ 05:30AM BLOOD Glucose-77 UreaN-10 Creat-0.5 Na-141 
K-3.8 Cl-103 HCO3-27 AnGap-15

ADMISSION:
___ 11:25PM BLOOD ALT-118* AST-106* CK(CPK)-1115* 
AlkPhos-51 TotBili-0.3
___ 05:02AM BLOOD CK-MB-44* MB Indx-5.3 cTropnT-0.03*
___ 11:25PM BLOOD CK-MB-63* MB Indx-5.7 cTropnT-0.03*
___ 11:25PM BLOOD TSH-1.8
___ 06:59AM BLOOD ___
___ 05:02AM BLOOD RheuFac-8
___ 11:25PM BLOOD CRP-1.6
___ 11:25PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

IMAGING/OTHER STUDIES:

Echocardiogram ___
The left atrium is mildly dilated. No atrial septal defect or 
patent foramen ovale is seen by 2D, color Doppler or saline 
contrast with maneuvers. Left ventricular wall thicknesses are 
normal. The left ventricular cavity size is normal. LV systolic 
function appears mildly-to-moderately depressed (LVEF = 40%) 
secondary to hypokinesis of the inferior and posterior walls. 
Right ventricular chamber size and free wall motion are normal. 
The diameters of aorta at the sinus, ascending and arch levels 
are normal. The aortic valve leaflets (3) appear structurally 
normal with good leaflet excursion and no aortic stenosis or 
aortic regurgitation. The mitral valve leaflets are structurally 
normal. Mild (1+) mitral regurgitation is seen. The pulmonary 
artery systolic pressure could not be determined. There is no 
pericardial effusion. 
 
Brief Hospital Course:
___ with hx of palpitations with prior negative workup 
presented to ___ with one day of palpitations and 
chest tightness, found to have atrial tachycardia refractory to 
cardioversion and medical management.

#) Atrial tachycardia: Refractory to intervention at outside 
hospital including diltiazem drip, digoxin, amiodarone, and 
cardioversion x4.  Rate controlled here with metoprolol. Tox 
screen negative.  Responsive to carotid massage.  Negative 
D-dimer. No PFO on echo, moderately depressed EF (40%). Patient 
was sent out on metoprolol succinate 100mg daily and will 
followup with our EP doctors as ___ outpatient. 
 
# Type II MI:  No history of ACS and no major risk factors. 
Likely tachycardic cardiomyopathy induced demand ischemia. 
Takasubo's also on the differential given very stressful 
divorce, but likely better explained by the tachycardia. 
Negative troponins here. Patient was started on statin at OSH 
due to concern for CAD, but this was discontinued here in 
setting of transaminitis and low suspicion for atherosclerotic 
disease. 

# Muscle weakness: DDx includes medication effect causing 
myositis, PMR, disuse atrophy, rheumatalogic 
(poly/dermatomyositis), viral myositis. Inherent myositis 
unlikely as it is rapidly decreasing. RF normal, TSH normal. CK 
downtrended over course of admission with initial rheumatologic 
workup negative suggesting an isolated rhabdomyolysis event with 
unclear precipitant. 

# Transaminitis: possibly due to statin, possibly muscle 
enzymes. Downtrended to normal levels upon discharge. 

#Alcohol use: Notes increase use in setting of stressful 
divorce. Not currently anxious or diaphoretic, no concern for 
active withdrawal. No need for active CIWA at this time. 
Continue to counsel patient that excessive alcohol intake is 
detrimental to her overall health. 

** TRANSITIONAL ISSUES**
-CODE STATUS: FULL CODE.
-CONTACT: ___ (friend) ___ 
- f/u ___
- f/u HIV
- F/u with ___ (electrophysiology) for TTE in the 
next month
- to consider referral to neurology/rheum if persistent muscle 
weakness 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
2. Metoprolol Succinate XL 100 mg PO DAILY 
RX *metoprolol succinate 100 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
Automatic atrial tachycardia
Muscle weakness

SECONDARY DIAGNOSES
Transaminitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you during your stay. You were 
transferred from ___ for a very fast heart rate. Our 
electrophysiologists saw you and started you on metoprolol XL 
100mg, a medication to slow your heart rate. You did well with 
this medication and you should continue this medication daily at 
home. Please follow up with Dr. ___ in about a month; 
please call to make the appointment. 

In addition, you had a lot of muscle weakness that started 
before your stay. One of your body's markers of muscle breakdown 
was really elevated, but has come down during your admission. 
Please follow up with your PCP and determine whether you should 
see a specialist for further work-up.

We wish you the best!
Your ___ care team 
 
Followup Instructions:
___